US05521147
In a flask were placed 140.0 g (0.732 mole) of 7-cyano-2,3-dihydro-2,2-dimethyl-6-fluorobenzofuran, 147.91 g (2.64 moles) of powdered potassium hydroxide, and 950 mL of t-butanol. This mixture was heated at reflux for 50 minutes after which it was cooled to ambient temperature. It was then poured into a mixture of 1500 mL of crushed ice and 1500 mL of a saturated aqueous solution of sodium chloride. The resulting mixture was extracted twice with 750 mL of ethyl acetate. The extracts were combined and washed once with a saturated aqueous solution of sodium chloride. After being dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated from the filtrate under reduced pressure, yielding 136.09 g of 2,3-dihydro-2,2-dimethyl-6-fluorobenzofuran-7-ylcarboxamide. The NMR spectrum was consistent with the proposed structure.

reactant | 7-cyano-2,3-dihydro-2,2-dimethyl-6-fluorobenzofuran | 0.732 mole, 140.0 g | C(#N)C1=C(C=CC=2CC(OC21)(C)C)F | C11H10FNO
reactant | potassium hydroxide | 2.64 moles, 147.91 g | [OH-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | t-butanol | 950 mL | C(C)(C)(C)O | C4H10O
product | 2,3-dihydro-2,2-dimethyl-6-fluorobenzofuran-7-ylcarboxamide | 136.09 g | CC1(OC2=C(C1)C=CC(=C2C(=O)N)F)C | C11H12FNO2
